US07585886B2
A 170 mg portion of methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]methyl}benzoate was dissolved in 4 ml of methanol, mixed with 2 ml of 1 M sodium hydroxide aqueous solution at room temperature and stirred for 41Hours. The reaction solution was concentrated under a reduced pressure, and 1 M hydrochloric acid was added to the residue until its pH became 3. This was extracted with chloroform and washed with saturated brine, and then the organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure to obtain 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]methyl}benzoic acid as a crude product. The thus obtained crude product was dissolved in 3.0 ml of 4 M hydrogen chloride/1,4-dioxane solution and 30 ml of dioxane at room temperature and stirred for 1Hour. The thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol), and then dissolved in 2.0 ml of dioxane, mixed with 2.0 ml of 4 M hydrogen chloride/1,4-dioxane solution and concentrated under a reduced pressure. The residue was dissolved in chloroform and mixed with diisopropyl ether, and the resulting precipitate was collected by filtration and dried under a reduced pressure to obtain 76 mg of 4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]methyl}benzoic acid dihydrochloride as a colorless solid.

reactant | methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]methyl}benzoate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C37H42N2O4
reactant | sodium hydroxide | 1 M, 2 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]methyl}benzoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)CC1=CC=C(C(=O)O)C=C1 | C36H40N2O4
